US05254595
A solution of 1-(2-chlorophenoxy)-2,3-epoxypropane (2.65 g) prepared by the method described in British Patent 767,991, and 2-aminotetralin (2.1 g) in ethanol (70 ml) is heated to the reflux temperature for 5 hours. Ethanol is then evaporated off and the thus obtained residue is chromatographed on a silica gel column eluting with ethyl acetate. The residue which is obtained upon evaporation to dryness of the combined fractions is crystallized from ethyl acetate (10 ml) yielding 1.5 g of N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-chlorophenoxy)propanamine; m.p. 98°-101° C.

reactant | 1-(2-chlorophenoxy)-2,3-epoxypropane | 2.65 g | ClC1=C(OCC2CO2)C=CC=C1 | C9H9ClO2
reactant | 2-aminotetralin | 2.1 g | NC1CC2=CC=CC=C2CC1 | C10H13N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-chlorophenoxy)propanamine | 1.5 g | C1C(CCC2=CC=CC=C12)NCC(COC1=C(C=CC=C1)Cl)O | C19H22ClNO2
